US04460580
20 ml of concentrated ammonia solution are added to a solution of 1.7 g of crude α-[N-[2-(3-carbomethoxy-4-hydroxy-phenoxy)-1-methyl-ethyl]-aminomethyl]-benzyl alcohol in 10 ml of dioxan and the mixture is left to stand at room temperature for 60-70 hours. The reaction mixture is evaporated, the residue is dissolved in 75 ml of ethyl acetate and the solution is washed with 10 ml of saturated, aqueous sodium chloride solution. Evaporation of the organic phase yields crude α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-1-methyl-ethyl]aminomethyl]-benzyl alcohol as a mixture of diastereoisomers in the form of an oil and the latter is crystallised from a little ethyl acetate and is identical to the product obtained, for example, in Example 1; melting point 120°-140°.

reactant | ammonia | 20 ml | N | H3N
reactant | α-[N-[2-(3-carbomethoxy-4-hydroxy-phenoxy)-1-methyl-ethyl]-aminomethyl]-benzyl alcohol | 1.7 g | C(=O)(OC)C=1C=C(OCC(C)NCC(C2=CC=CC=C2)O)C=CC1O | C19H23NO5
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-1-methyl-ethyl]aminomethyl]-benzyl alcohol | C(N)(=O)C=1C=C(OCC(C)NCC(C2=CC=CC=C2)O)C=CC1O | C18H22N2O4
